US07825278B2
2-Chloro-β-oxo-N-propylbenzenepropanamide.
A suspension of 5-(2-chlorobenzoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione (2.06 g, 7.30 mmol) in 100 mL of toluene was treated with neat propylamine (550 μL, 395 mg, 6.70 mmol) added dropwise via syringe. The reaction was then heated at 80-90° C. for 4 h. Once at rt, the reaction was concentrated to dryness. The residue was adsorbed onto flash silica gel and added to 19 cm of flash silica gel in a 5 cm dia. column. Elution with 4:1 hexanes/EtOAc afforded 851 mg (53%) of the title compound as a yellow oil.

reactant | 5-(2-chlorobenzoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 7.30 mmol, 2.06 g | ClC1=C(C(=O)C2C(OC(OC2=O)(C)C)=O)C=CC=C1 | C13H11ClO5
reactant | propylamine | 6.70 mmol, 550 μL, 395 mg | C(CC)N | C3H9N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-β-oxo-N-propylbenzenepropanamide | 851 mg, 53% | ClC1=C(C=CC=C1)C(CC(=O)NCCC)=O | C12H14ClNO2
